US06002013
Preparation of 3-(N'-methyl-thioureido)-benzoic acid
A mixture of 279.6 g of 3-amino-benzoic acid, 164.1 g of methyl isothiocyanate and 1000 g of 100% acetic acid is heated to 80-85° C. The temperature rises to 95-100° C. in the course of 20 minutes without further heating, and a clear solution from which the product slowly crystallizes out forms. The suspension is kept at 90-100° C. for 2 hours, subsequently cooled to 15-20° C. and filtered with suction and the material on the suction filter is washed with acetic acid. 404 g of the title compound result, purity: 99.5%, melting point: 190-91° C., decomposition. Yield: 95.7% of theory.

reactant | 3-amino-benzoic acid | 279.6 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | methyl isothiocyanate | 164.1 g | CN=C=S | C2H3NS
solvent | acetic acid | 1000 g | C(C)(=O)O | C2H4O2
product | 3-(N'-methyl-thioureido)-benzoic acid | 404 g, Yield: 95.7% | CNC(NC=1C=C(C(=O)O)C=CC1)=S | C9H10N2O2S
